US04511391
5-(3,4-Ethylenedioxyphenyl)-3-hydroxycyclohex-2-en-1-one was prepared from 1-(3,4-ethylenedioxyphenyl)but-1-en-3-one and diethyl malonate following essentially the same procedure as that described in Example 1 part (ii). The product was obtained as a crystalline solid, mp 188° C.

reactant | 1-(3,4-ethylenedioxyphenyl)but-1-en-3-one | C1OC=2C=C(C=CC2OC1)C=CC(C)=O | C12H12O3
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 5-(3,4-Ethylenedioxyphenyl)-3-hydroxycyclohex-2-en-1-one | C1OC=2C=C(C=CC2OC1)C1CC(=CC(C1)=O)O | C14H14O4
